### PR TITLE
[Merged by Bors] - feat(Algebra/Group): semigroup ideals

### PR DESCRIPTION
**Pull request by staroperator**
This PR defines semigroup ideals; they are different from (in fact, a weaker form of) ring ideals. We prove that in a monoid whose algebraic order is well-quasi-order, all semigroup ideals are finitely generated, and the semigroup ideals satisfy the ascending chain condition. These definitions and results are useful in #27414.

Note: Following `Ideal` with `Submodule`, `SemigroupIdeal M` is an `abbrev` of `SubMulAction M M`. Also, `Ideal.closure` is a re-definition of `SubMulAction.closure` and `Ideal.FG` is defeq to `SubMulAction.FG` but unfolds more nicely.

---

- [x] depends on: #31517

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Ideal.lean [hunk 1]
```diff
@@ -0,0 +1,186 @@
...
+variable [Semigroup M]
+
+@[to_additive]
+protected theorem mul_mem (I : SemigroupIdeal M) (x : M) {y : M} : y ∈ I → x * y ∈ I :=
+  SubMulAction.smul_mem I x
+
+/-- The semigroup ideal generated by a set `s`, defined as `s ∪ Set.univ * s`. -/
+@[to_additive /-- The additive semigroup ideal generated by a set `s`, defined as
+`s ∪ Set.univ + s`. -/]
+def closure (s : Set M) : SemigroupIdeal M where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]: Shouldn't you define this at the level of `SubMulAction` first?

File: Mathlib/Algebra/Group/Ideal.lean [hunk 2]
```diff
@@ -0,0 +1,186 @@
...
+    simp only [mem_closure] at hx
+    rcases hx with hx | ⟨y, z, hz, rfl⟩
+    · exact hs hx
+    · exact SemigroupIdeal.mul_mem _ _ (hs hz)
+
+/-- A semigroup ideal is finitely generated if it is generated by a finite set. -/
+@[to_additive /-- An additive semigroup ideal is finitely generated if it is generated by a finite
+set. -/]
+def FG (I : SemigroupIdeal M) :=
+  ∃ (s : Set M), s.Finite ∧ I = closure s
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]: Similarly here

File: Mathlib/Algebra/Group/Ideal.lean (hunk 1 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: Could you explain what "define at level of `SubMulAction`" means?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Ideal.lean]: I mean that `SemigroupIdeal.closure` should be defined as an `abbrev` of `SubMulAction.closure`, which currently doesn't exist

Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: OK that makes sense. I have now followed the definition of `Ideal.span` and `Ideal.FG`.

File: Mathlib/GroupTheory/GroupAction/SubMulAction/FinitelyGenerated.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/SubMulAction/FinitelyGenerated.lean:1]: `.Closure` seems like a bette filename

File: Mathlib/Algebra/Group/Ideal.lean [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+import Mathlib.Algebra.Order.Monoid.Canonical.Defs
+import Mathlib.GroupTheory.GroupAction.SubMulAction.FinitelyGenerated
+import Mathlib.Order.WellFoundedSet
+
+/-!
+# Semigroup ideals
+
+This file defines (left) semigroup ideals (also called monoid ideals sometimes), which are sets `s`
+in a semigroup such that `a * b ∈ s` whenever `b ∈ s`. Note that semigroup ideals are different from
+ring ideals, where a ring ideal must also be an additive submonoid of the ring.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]:
```suggestion
ring ideals: a ring ideal in a ring is a multiplicative semigroup ideal that is also an additive submonoid.
```

File: Mathlib/Algebra/Group/Ideal.lean [hunk 4]
```diff
@@ -0,0 +1,176 @@
...
+@[to_additive]
+theorem mem_closure_of_mem (hx : x ∈ s) : x ∈ closure s :=
+  SubMulAction.mem_closure_of_mem hx
+
+@[to_additive]
+theorem closure_le {I} : closure s ≤ I ↔ s ⊆ I :=
+  SubMulAction.closure_le
+
+@[to_additive]
+theorem closure_mono (h : s ⊆ t) : closure s ≤ closure t :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]:
```suggestion
@[to_additive (attr := gcongr)]
theorem closure_mono (h : s ⊆ t) : closure s ≤ closure t :=
```

File: Mathlib/Algebra/Group/Ideal.lean [hunk 5]
```diff
@@ -0,0 +1,176 @@
...
+
+/-- The semigroup ideal generated by `s` is `s ∪ Set.univ * s`. -/
+@[to_additive /-- The additive semigroup ideal generated by `s` is `s ∪ Set.univ + s`. -/]
+theorem coe_closure [Semigroup M] {s : Set M} :
+    (closure s : Set M) = s ∪ univ * s := by
+  let I : SemigroupIdeal M :=
+    { carrier := s ∪ univ * s
+      smul_mem' x y := by
+        rintro (hy | ⟨y, -, z, hz, rfl⟩)
+        · exact Or.inr (mul_mem_mul (mem_univ _) hy)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]: nit:
```suggestion
        · exact .inr <| mul_mem_mul (mem_univ _) hy
```

File: Mathlib/Algebra/Group/Ideal.lean [hunk 6]
```diff
@@ -0,0 +1,176 @@
...
+
+section WellQuasiOrderedLE
+
+variable [CommMonoid M] [PartialOrder M] [WellQuasiOrderedLE M] [CanonicallyOrderedMul M]
+
+/-- In a canonically ordered and well-quasi-ordered monoid, any semigroup ideal is finitely
+generated. -/
+@[to_additive /-- In a canonically ordered and well-quasi-ordered additive monoid, any semigroup
+ideal is finitely generated. -/]
+theorem fg_of_wellQuasiOrderedLE (I : SemigroupIdeal M) : I.FG := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]:
```suggestion
theorem FG.of_wellQuasiOrderedLE (I : SemigroupIdeal M) : I.FG := by
```

File: Mathlib/Algebra/Group/Ideal.lean [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+/-- In a canonically ordered and well-quasi-ordered monoid, the semigroup ideals satisfy the
+ascending chain condition. -/
+@[to_additive /-- A canonically ordered and well-quasi-ordered additive monoid, the semigroup ideals
+satisfy the ascending chain condition. -/]
+instance : WellFoundedGT (SemigroupIdeal M) := by
+  rw [wellFoundedGT_iff_monotone_chain_condition]
+  intro f
+  rcases fg_iff.1 (fg_of_wellQuasiOrderedLE (⨆ i, f i)) with ⟨s, hI'⟩
+  have hs : ∀ x ∈ s, ∃ i, x ∈ f i := by
+    intro x hx
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]: nit:
```suggestion
  have hs x (hx : x ∈ s) : ∃ i, x ∈ f i := by
```

**Review by YaelDillies — COMMENTED** [review]
Could you split off the new `SubMulAction` material to a preliminary PR?

File: Mathlib/Algebra/Group/Ideal.lean (hunk 6 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: Is this an actual improvement? There are 58 `fg_of_` but only 5 `FG.of_` in Mathlib.

File: Mathlib/Algebra/Group/Ideal.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: Thanks, I made some changes

File: Mathlib/Algebra/Group/Ideal.lean (hunk 7 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: This looks less readable than the quantifiers.

File: Mathlib/GroupTheory/GroupAction/SubMulAction/FinitelyGenerated.lean
Comment (staroperator) [reply Mathlib/GroupTheory/GroupAction/SubMulAction/FinitelyGenerated.lean:1]: Renamed in #31517!

File: Mathlib/Algebra/Group/Ideal.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Ideal.lean]: That's not surprising to me. Anonymous dot notation wasn't a thing in Lean 3

File: Mathlib/Algebra/Group/Ideal.lean [hunk 8]
```diff
@@ -0,0 +1,177 @@
...
+variable [Mul M] {s t : Set M} {x : M}
+
+@[to_additive]
+protected theorem mul_mem (I : SemigroupIdeal M) (x : M) {y : M} : y ∈ I → x * y ∈ I :=
+  SubMulAction.smul_mem I x
+
+/-- The semigroup ideal generated by a set `s`. -/
+@[to_additive /-- The additive semigroup ideal generated by a set `s`. -/]
+def closure (s : Set M) : SemigroupIdeal M :=
+  SubMulAction.closure M s
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]:
```suggestion
abbrev closure (s : Set M) : SemigroupIdeal M :=
  SubMulAction.closure M s
```

Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: I'm following [`Ideal.span`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Span.html#Ideal.span) which is a `def`, not an `abbrev`. I should add a simp lemma `subMulActionClosure_eq`.

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Ideal.lean]: Maybe we are just being inconsistent, but in comparison [`PointedCone.span`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Convex/Cone/Pointed.html#PointedCone.span) is an `abbrev`. It certainly make more sense to me as an `abbrev` since there's no functional difference between both declarations

File: Mathlib/Algebra/Group/Ideal.lean [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+
+This file defines (left) semigroup ideals (also called monoid ideals sometimes), which are sets `s`
+in a semigroup such that `a * b ∈ s` whenever `b ∈ s`. Note that semigroup ideals are different from
+ring ideals (`Ideal` in Mathlib): a ring ideal is a semigroup ideal that is also an additive
+submonoid of the ring.
+
+## Main results
+
+In a canonically ordered and well-quasi-ordered monoid, any semigroup ideal is finitely generated,
+and the semigroup ideals satisfy the ascending chain condition.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Ideal.lean]: This result should be in a new file under `Algebra.Order.Group`

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Group/Ideal.lean (hunk 8 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: That makes sense. My concern is that making it `abbrev` allows `simp` to rewrite a `SemigroupIdeal` into a `SubMulAction`, which makes lemmas on `SemigroupIdeal` less discoverable.

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Group/Ideal.lean (hunk 8 above)
Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: @YaelDillies Do you still think `abbrev` is better than `def`?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Ideal.lean]: Yes, I think so. This can always be changed later either way, but I believe `abbrev` is the right design here

Comment (staroperator) [reply Mathlib/Algebra/Group/Ideal.lean]: Then I will use `abbrev` here. Though we can still change it if we find the best design
